US04038320
To a solution of 2,2'-bis(acetamido)- 5,5'-dinitrobiphenyl (34.1 g, 0.0953 mole) in concentrated sulfuric acid (500 ml) was added, slowly, 250 ml of water. The reaction mixture was stirred and heated at 110° C. and 1 mm Hg to give 24.9 g (96 %) of 2,2'-diamino- 5,5'-dinitrobiphenyl. An analytical sample, m.p. 315°-317° C., was obtained by recrystallization from ethanol-tetrahydrofuran.

reactant | 2,2'-bis(acetamido)- 5,5'-dinitrobiphenyl | 0.0953 mole, 34.1 g | C(C)(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])C1=C(C=CC(=C1)[N+](=O)[O-])NC(C)=O | C16H14N4O6
reactant | water | 250 ml | O | H2O
solvent | sulfuric acid | 500 ml | S(O)(O)(=O)=O | H2O4S
product | 2,2'-diamino- 5,5'-dinitrobiphenyl | 24.9 g, 96 % | NC1=C(C=C(C=C1)[N+](=O)[O-])C1=C(C=CC(=C1)[N+](=O)[O-])N | C12H10N4O4
